US06936608B2
b) 7-[3-(Pyridin-4-yl)phenyl]-3-trifluoromethylimidazo[1,2-b][1,2,4]triazine
A mixture of 7-(3-bromophenyl)-3-trifluoromethylimidazo[1,2-b][1,2,4]triazine (21 mg, 0.06 mmol), 4-pyridylboronic acid (11 mg, 0.09 mmol) and 2 M Na2CO3 (0.09 ml) in 1,2-dimethoxyethane (1.5 ml) was degassed with a stream of nitrogen for 10 min. Tetrakis(triphenylphosphine)palladium(0) (4 mg, 0.003 mmol) was added and the mixture was stirred under nitrogen at 65° C. for 12 h. After allowing to cool to room temperature, the mixture was diluted with ethyl acetate and partitioned between water (20 ml) and ethyl acetate (30 ml). The organic extracts were dried (MgSO4) and evaporated in vacuo. The residue was purified by flash chromatography (silica gel, 5% MeOH/CH2Cl2) and triturated with diethyl ether to give 9.2 mg (44%) of the title compound: 1H NMR (400 MHz, CDCl3) δ 7.58 (2H, m), 7.70 (1H, t, J 7.3 Hz), 7.74-7.77 (1H, m), 8.13 (1H, dt, J 7.3, 1.6 Hz), 8.39 (1H, t, J 1.6 Hz), 8.68 (1H, s), 8.72 (2H, m), 8.83 (1H, s); MS (ES+) m/z 342 [M+H]+.

reactant | 7-(3-bromophenyl)-3-trifluoromethylimidazo[1,2-b][1,2,4]triazine | 0.06 mmol, 21 mg | BrC=1C=C(C=CC1)C1=CN=C2N1N=CC(=N2)C(F)(F)F | C12H6BrF3N4
reactant | 4-pyridylboronic acid | 0.09 mmol, 11 mg | N1=CC=C(C=C1)B(O)O | C5H6BNO2
reactant | Na2CO3 | 2 M, 0.09 ml | C(=O)([O-])[O-].[Na+].[Na+]
solvent | 1,2-dimethoxyethane | 1.5 ml | COCCOC | C4H10O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 0.003 mmol, 4 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 7-[3-(Pyridin-4-yl)phenyl]-3-trifluoromethylimidazo[1,2-b][1,2,4]triazine | 9.2 mg, 44% | N1=CC=C(C=C1)C=1C=C(C=CC1)C1=CN=C2N1N=CC(=N2)C(F)(F)F | C17H10F3N5
